US05463077
By working in accordance with Use Example 4, starting from 0.75 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride and 0.28 g of (4-methoxyphenyl)-acetic acid, 0.61 g of (3aS, 4S, 7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(4-methoxyphenyl)-acetyl]-perhydroisoindol-4-ol is obtained in the form of white crystals which melt at 211° C.

reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 0.75 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
reactant | (4-methoxyphenyl)-acetic acid | 0.28 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
product | (3aS, 4S, 7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(4-methoxyphenyl)-acetyl]-perhydroisoindol-4-ol | 0.61 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(CC1=CC=C(C=C1)OC)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C36H37NO4
